US07569600B2
5-Cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-Pyridin-3-ylmethyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid (compound #121)
Alkylation of 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester with 3-bromomethylpyridine and subsequent hydrolysis of the derived ester afforded the title compound compound #121

reactant | 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C1CCNCC1)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CCCCC1 | C25H36N2O3S
reactant | 3-bromomethylpyridine | BrCC=1C=NC=CC1 | C6H6BrN
product | 5-Cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-Pyridin-3-ylmethyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C1CCN(CC1)CC=1C=NC=CC1)C(=O)[C@@H]1CC[C@H](CC1)C | C30H39N3O3S
